US04420487
Preparation of 5-Chloro-2-Hydroxymethyl-6-Sulfamyl-1H-Benzimidazole
To 11.0 g of 2-amino-4-chloro-5-sulfamylaniline in 50 ml of 4 N hydrochloric acid was added 5.6 g of glycolic acid. After refluxing for 6 hours, the resulting solid was collected by filtration and then added with stirring to 200 ml of 38% ammonium hydroxide; the pink precipitate was then collected and suspended in water with stirring at 60° for 20 minutes. Recrystallization of the solid from methanol provided 3.0 g of colorless crystals, m.p. 247°-250°.

reactant | 2-amino-4-chloro-5-sulfamylaniline | 11.0 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | glycolic acid | 5.6 g | C(CO)(=O)O | C2H4O3
solvent | hydrochloric acid | 4 N, 50 ml | Cl | ClH
product | 5-Chloro-2-Hydroxymethyl-6-Sulfamyl-1H-Benzimidazole | 3.0 g | ClC1=CC2=C(NC(=N2)CO)C=C1S(N)(=O)=O | C8H8ClN3O3S
